US05576437
To a solution of 8-methyl-7-nitroquinoline (1.8 g) in methanol (20 mL)is added Pd/C (10%, 0.45 g) and ammonium formate (2.77 g). The mixture is stirred at room temperature for 30 minutes, then filtered on Celite, with methanol wash of the solids. The filtrate is rotary evaporated and the residue partitioned between H2O and CH2Cl2. The organic layer is dried over potassium carbonate, filtered and rotary evaporated to afford 7-amino-8-methylquinoline as a yellow solid.

reactant | 8-methyl-7-nitroquinoline | 1.8 g | CC=1C(=CC=C2C=CC=NC12)[N+](=O)[O-] | C10H8N2O2
reactant | ammonium formate | 2.77 g | C(=O)[O-].[NH4+]
solvent | methanol | 20 mL | CO | CH4O
catalyst | Pd/C | 0.45 g | [Pd] | Pd
product | 7-amino-8-methylquinoline | NC1=CC=C2C=CC=NC2=C1C | C10H10N2
